US07034039B2
A suspension of tert-butyl[6-benzyloxy-4-(2-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (3.98 g, 7.5 mmol) and 5% palladium carbon (1.5 g) in ethanol (50 mL) was stirred under a hydrogen atmosphere at room temperatures for 2 h. The catalyst was filtered off and the filtrate was concentrated under reduced pressure. The obtained crystals were recrystallized from tetrahydrofuran-diisopropyl ether to give tert-butyl[4-(2-fluorophenyl)-6-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (3.11 g, 94.2%) as crystals.

reactant | tert-butyl[6-benzyloxy-4-(2-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 7.5 mmol, 3.98 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=C(C=CC=C1)F)OCC1=CC=CC=C1)=O)CC(C)C)=O | C32H35FN2O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium carbon | 1.5 g | [C].[Pd]
product | tert-butyl[4-(2-fluorophenyl)-6-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 3.11 g, 94.2% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=C(C=CC=C1)F)O)=O)CC(C)C)=O | C25H29FN2O4
